US04145432
A solution of diethyl 2-methyl-4-(2-thienyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (400 mg) and p-toluenesulfonic acid (catalytic amount) in 99% ethanol (10 ml) was refluxed with stirring for 2 hours. After the resultant solution was concentrated, the residue was pulverized. The power was recrystallized from ethyl acetate to give colorless prisms (203.2 mg) of ethyl 2-methyl-4-(2-thienyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate, m.p. 232° C.

reactant | diethyl 2-methyl-4-(2-thienyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 400 mg | CC=1NC(=C(C(C1C(=O)OCC)C=1SC=CC1)C(=O)OCC)CO | C17H21NO5S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-methyl-4-(2-thienyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | 203.2 mg | CC1=C(C(C2=C(N1)COC2=O)C=2SC=CC2)C(=O)OCC | C15H15NO4S
